US08022206B2
1-(4-Chlorophenyl)propan-2-ol
General Procedure FF: To a THF (5 mL) solution of 1.0 M of 4-chlorophenylmagnesium bromide in Et2O (10.0 mL) was added a solution of propylene oxide (0.87 g, 15 mmol) in THF (5 mL) at −78° C. under nitrogen and stirred. The mixture was slowly warmed to rt. The mixture was quenched with sat. aq NH4Cl (10 mL) and then extracted with EtOAc (50 mL). The organic phase was washed with brine (10 mL) and dried over anhydrous sodium sulfate. The crude material was purified by silica gel chromatography using Hexane/EtOAc (80:20) as eluent to give the desired product as a colorless oil. 1H NMR (CDCl3, 400 MHz): δ=1.23-1.26 (m, 3H), 1.44 (d, J=3.8 Hz, 1H), 2.65-2.80 (m, 2H), 3.97-4.07 (m, 1H), 7.14-7.18 (m, 2H), 7.28-7.32 (m, 2H).

reactant | 4-chlorophenylmagnesium bromide | 1.0 M | ClC1=CC=C(C=C1)[Mg]Br
reactant | propylene oxide | 15 mmol, 0.87 g | C1C(C)O1 | C3H6O
solvent | Et2O | 10.0 mL | CCOCC | C4H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(4-Chlorophenyl)propan-2-ol | ClC1=CC=C(C=C1)CC(C)O | C9H11ClO
